US08076336B2
2-Bromo-1-[3-ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one
1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one (O2.064; 150 mg) was dissolved in THF (15 ml), and phenyltrimethylammonium tribromide (185 mg) was added while stirring at RT. After stirring at RT for 5 h, the mixture was admixed with water and saturated sodium hydrogencarbonate solution, and EA was added. The EA phase was removed and the alkaline water phase was extracted three times with EA. The combined organic phases were washed once with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by means of preparative HPLC (met. A). The product fractions, each of them clean, were combined, freed of the acetonitrile under reduced pressure, alkalized with saturated sodium hydrogencarbonate solution and extracted five times with EA. The combined organic phases were dried over magnesium sulfate and, after filtering off the desiccant, dried under reduced pressure. 120 mg of the title compound were isolated.

reactant | 1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one | 150 mg | C(C)OC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(CC)=O | C11H13F5O2S
reactant | phenyltrimethylammonium tribromide | 185 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Bromo-1-[3-ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one | 120 mg | BrC(C(=O)C1=CC(=CC(=C1)S(F)(F)(F)(F)F)OCC)C | C11H12BrF5O2S
